US06162799
To a stirred solution of 2-hydroxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone, Example 12, (500 mg, 2.06 mmol) in dry dichloromethane (20 ml) at room temperature was added diisopropylethylamine (1.33 g, 10.3 mmol) and, after 3 minutes, ethoxymethyl chloride (831 mg, 10.3 mmol) in dichloromethane (5 ml). The reaction was stirred for 1 h before diluting with dichloromethane (30 ml), washing with water (2×20 ml), dilute hydrochloric acid (20 ml), saturated sodium chloride solution (20 ml) and drying (MgSO4). Filtration and evaporation of the solvent under reduced pressure and chromatography, eluent hexane/ether, gave 2-ethoxymethoxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone (567 mg), nD 1.5182. NMR peaks at: 185.3, 181.6, 155.5, 137.1, 133.8, 133.2, 132.0, 131.4, 126.3, 126.2, 33.6, 30.1, 29.5, 29.4, 29.3, 28.9, 24.1, 23.9, 16.7, -1.6; 96.9, 65.8, 15.0 (O--CH2 --O--CH2CH3).

reactant | 2-hydroxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone | OC=1C(C2=CC=CC=C2C(C1CCCCCCCCC[Si](C)(C)C)=O)=O | C22H32O3Si
reactant | diisopropylethylamine | 10.3 mmol, 1.33 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethoxymethyl chloride | 10.3 mmol, 831 mg | C(C)OCCl | C3H7ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-ethoxymethoxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone | 567 mg | C(C)OCOC=1C(C2=CC=CC=C2C(C1CCCCCCCCC[Si](C)(C)C)=O)=O | C25H38O4Si
